US07592362B2
1-(1H-Imidazol-2-yl)-1-(3-methyl phenyl)ethanol
To a solution of 1-(diethoxymethyl)-1H-imidazole (935 mg, 5.5 mmol) in anhydrous tetrahydrofuran (6 ml), at −78° C., was added n-butyllithium (2.5M in hexanes, 2.2 ml, 5.5 mmol). The mixture was allowed to warm to 0° C. and then added to a solution of 1-(3-methylphenyl)ethanone (670 mg, 5.0 mmol) in anhydrous tetrahydrofuran (5 ml), also at 0° C. The reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 1 h. The mixture was poured into cold hydrochloric acid (4N, 10 ml) and stirred for 20 min. The mixture was adjusted to pH 7 by addition of sodium hydrogen carbonate and then extracted with dichloromethane. The combined extracts were dried (MgSO4) and concentrated in vacuo to give the title compound (850 mg).

reactant | 1-(diethoxymethyl)-1H-imidazole | 5.5 mmol, 935 mg | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
reactant | n-butyllithium | 5.5 mmol, 2.5M, 2.2 ml | C(CCC)[Li]
reactant | 1-(3-methylphenyl)ethanone | 5.0 mmol, 670 mg | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | hydrochloric acid | 4N, 10 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(1H-Imidazol-2-yl)-1-(3-methyl phenyl)ethanol | 850 mg | N1C(=NC=C1)C(C)(O)C1=CC(=CC=C1)C | C12H14N2O
